US07728030B2
1-(4-chlorophenyl)-5-iodo-1H-indazole (126b)
4-chlorophenylhydrazine hydrochloride (5.24 g, 29.27 mmol), 2-fluoro-5-iodobenzaldehyde (7.5 g, 30.00 mmol) and cesium carbonate (22.8 g, 69.98 mmol) was suspended in NMP (120 mL) and stirred at ambient temperature for 45 min. The temperature was raised to +160° C. and the reaction mixture was stirred for 1 h, the now black suspension was allowed to reach r.t. Water was added, the slurry was extracted with EtOAc (500 mL. The organic phase was washed with brine (2×). The brine fractions and waterphase was combined and backextracted once with EtOAc. This second EtOAc phase was washed with brine (2×) before combined with the previous EtOAc phase. The organic phases were dried over Na2SO4, filtered and evaporated. The black residue were dissolved in DCM/Heptane (=1/1) and filtered through a silica column, and the column was then further eluted with DCM/Heptane (=1/1) solvent mixture. The fractions containing product was evaporated, residue was dissolved in EtOAc and Heptane was added, evaporation and diluting with Heptane afforded a slurry, the solid material was collected by filtration and washed with Heptane. Yield 2.82 g (27%)

reactant | 4-chlorophenylhydrazine hydrochloride | 29.27 mmol, 5.24 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 2-fluoro-5-iodobenzaldehyde | 30.00 mmol, 7.5 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | cesium carbonate | 69.98 mmol, 22.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | NMP | 120 mL | CN1CCCC1=O | C5H9NO
product | 1-(4-chlorophenyl)-5-iodo-1H-indazole | ClC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I | C13H8ClIN2
